US04935441
As in example 1, but using 10 g 3'-fluoro-flavanone, 100 ml dimethylformamide and 15 ml phosphorous oxychloride. Reaction time is two hours at 50° C. After hydrolysis a precipitate formed which is filtered, washed with water and dried over phosphorous pentoxyde. The residual solid is recrystallised in a mixture of ethanol and water and pure yellow crystalline 4-chloro-3'-fluoro-3-formyl-flav-3-ene is obtained; m.p. 97°-99° C.

reactant | 3'-fluoro-flavanone | 10 g | FC=1C=C(C2OC3=CC=CC=C3C(C2)=O)C=CC1 | C15H11FO2
reactant | phosphorous oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-chloro-3'-fluoro-3-formyl-flav-3-ene | ClC1=C(C(OC2=CC=CC=C12)C1=CC(=CC=C1)F)C=O | C16H10ClFO2
